US08802661B2
Preparation of 2-(trimethylsilyl)ethyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)icosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 42
2-(trimethylsilyl)ethyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (15 mg, 0.018 mmol) was dissolved in a mixture of ethyl acetate and methanol (2 ml, 1:1) and treated with palladium (10% in carbon, 1 mg, 9.40 mmol) and a balloon with hydrogen. The mixture was stirred at rt for 3 h. The solvent was removed in vacuo and the residue was dissolved in methylene chloride and filtered through a fine pad of celite. The solvent was removed in vacuo and the crude was purified in silica gel to afford 2-(trimethylsilyl)ethyl 4-((1S,3aS,5aR,5bR,7aS,11aS,11bR,13aR,13bR)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)icosahydro-1H-cyclopenta[a]chrysen-9-yl) (12 mg, 80%) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.92 (d, J=8.28 Hz, 2H), 7.23 (d, J=8.53 Hz, 2H), 6.22 (t, J=6.15 Hz, 1H), 4.50-4.36 (m, 2H), 4.24-4.16 (m, 2H), 3.51 (td, J=11.48, 6.40 Hz, 2H), 2.59-2.49 (m, 2H), 2.40 (dd, J=12.92, 2.89 Hz, 2H), 2.35-2.24 (m, 1H), 2.18-2.04 (m, 1H), 2.03-1.95 (m, 1H), 1.89-0.91 (m, 26H), 0.99 (s, 3H), 0.96 (s, 6H), 0.88 (d, J=7.03 Hz, 3H), 0.77 (d, J=7.03 Hz, 3H), 0.76 (s, 3H), 0.70 (s, 3H), 0.09 (s, 9H), 0.06 (s, 9H).

reactant | 2-(trimethylsilyl)ethyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.018 mmol, 15 mg | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)OCC[Si](C)(C)C)C=C1)C)[C@@H](CC3)C(=C)C)C(NCCC(OCC[Si](C)(C)C)=O)=O | C50H79NO5Si2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium | 9.40 mmol, 1 mg | [Pd] | Pd
product | 2-(trimethylsilyl)ethyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-3a-(3-oxo-3-(2-(trimethylsilyl)ethoxy)propylcarbamoyl)icosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CC[C@@H](C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)C2=CC=C(C(=O)OCC[Si](C)(C)C)C=C2)C)C(NCCC(OCC[Si](C)(C)C)=O)=O | C50H83NO5Si2
